US06245760B1
2,7-Bis-cyclohexyloxy-6-methoxy-quinoxaline
To a DMF solution (5 mL) of NaH (0.32 g, 8 mmol) under argon, cyclohexanol (0.7 mL, 6.7 mmol) is added dropwise. The mixture is stirred at room temperature for 25 minutes, then 2-chloro-6,7-dimethoxyquinoxaline is added portionwise. The reaction is stirred for 15 minutes at room temperature, at 90° C. for 2 hours, and at 110° C. for 1 hour. The mixture is cooled, quenched with H2O, and partitioned between EtOAcl H2O. The organic layer is washed with H2O and brine, dried (MgSO4), and chromatographed (10% EtOAc/hexanes) to provide a waxy white solid (m .p. 75-78° C.). Anal. Calcd. for C21H28N2O3: C, 70.76; H, 7.92; N, 7.86; Found: C, 70.81; H, 7.79; N, 7.70.

reactant | NaH | 8 mmol, 0.32 g | [H-].[Na+]
reactant | cyclohexanol | 6.7 mmol, 0.7 mL | C1(CCCCC1)O | C6H12O
reactant | 2-chloro-6,7-dimethoxyquinoxaline | ClC1=NC2=CC(=C(C=C2N=C1)OC)OC | C10H9ClN2O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2,7-Bis-cyclohexyloxy-6-methoxy-quinoxaline | C1(CCCCC1)OC1=NC2=CC(=C(C=C2N=C1)OC)OC1CCCCC1 | C21H28N2O3
